US06586447B1
12A. 4-(6-Bromo-7-methyl-2,3-dioxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide
To a solution of 6-bromo-7-methyl-1H-indole-2,3-dione (2.0 g, 8.33 mmol) in DMF (25 ml) was added potassium carbonate (2.3 g, 16.6 mmol). After stirring at this temperature for 30 minutes, was added 4-bromomethyl-N,N-dimethyl-benzenesulfonamide (3.0 g, 10.83 mmol). The reaction mixture was stirred at room temperature for six hours. It was then partitioned between water and ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated under vacuum to give the crude product which was chromatographed on flash silica gel eluting with 20% ethyl acetate in hexane, providing the title compound of 12A (0.392 g, 11% yield).

reactant | 6-bromo-7-methyl-1H-indole-2,3-dione | 8.33 mmol, 2.0 g | BrC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6BrNO2
reactant | potassium carbonate | 16.6 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-N,N-dimethyl-benzenesulfonamide | 10.83 mmol, 3.0 g | BrCC1=CC=C(C=C1)S(=O)(=O)N(C)C | C9H12BrNO2S
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(6-Bromo-7-methyl-2,3-dioxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 0.392 g, 11% yield | BrC1=CC=C2C(C(N(C2=C1C)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)=O | C18H17BrN2O4S
